US06765012B2
4-Methyl-3-{[4-(4-piperidin-1-yl-butoxy)-phenylamino]-methylene}-1,3-dihydro-indol-2-one
In a manner similar to that described in Example 231, 4-(4-Piperidin-1-yl-butoxy)-phenylamine (1.19 g, 1.1 equiv.) and 4-methyl-3-hydroxymethylene-1,3-dihydro-indol-2-one (0.79 g, 4.5 mmol, 1 equiv.) are reacted to give the named compound as a yellow solid (0.97 g, 53%).

reactant | 4-(4-Piperidin-1-yl-butoxy)-phenylamine | 1.19 g, 1.1 equiv. | N1(CCCCC1)CCCCOC1=CC=C(C=C1)N | C15H24N2O
reactant | 4-methyl-3-hydroxymethylene-1,3-dihydro-indol-2-one | 4.5 mmol, 0.79 g, 1 equiv. | CC1=C2C(C(NC2=CC=C1)=O)=CO | C10H9NO2
product | 4-Methyl-3-{[4-(4-piperidin-1-yl-butoxy)-phenylamino]-methylene}-1,3-dihydro-indol-2-one | 0.97 g, 53% | CC1=C2C(C(NC2=CC=C1)=O)=CNC1=CC=C(C=C1)OCCCCN1CCCCC1 | C25H31N3O2
